US07629351B2
Example 1, Alternative Preparation, Step 6: A stirring solution of 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexylcarbamate (100 mg, 0.183 mmol) in dichloromethane (3 mL) was charged with trifluoroacetic acid (2 mL). The reaction was stirred for 2 h at room temperature and concentrated in vacuo. The residue was dissolved in dichloromethane (50 mL) and washed with saturated NaHCO3 (20 mL). The aqueous layer was extracted with dichloromethane (3×30 mL). The dichloromethane layers were combined and dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to give benzyl (S)-1-((1S,2R,4R)-2-amino-4-(tert-butylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate (66 mg, 90%). LC/MS found [M+H]+=403.

reactant | 2-(trimethylsilyl)ethyl (1R,2S,5R)-2-((S)-3-benzyloxycarbonylamino-2-oxopyrrolidin-1-yl)-5-(tert-butylamino)cyclohexylcarbamate | 0.183 mmol, 100 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CC1)[C@@H]1[C@@H](C[C@@H](CC1)NC(C)(C)C)NC(OCC[Si](C)(C)C)=O)=O | C28H46N4O5Si
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | benzyl (S)-1-((1S,2R,4R)-2-amino-4-(tert-butylamino)cyclohexyl)-2-oxopyrrolidin-3-ylcarbamate | 66 mg, 90% | N[C@H]1[C@H](CC[C@H](C1)NC(C)(C)C)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C22H34N4O3
